US06093731
N-[(4-Chloro-1-guanidino-7-isoquinolinyl)sulphonyl]-N-(3-methoxybenzyl)glycine t-butyl ester hydrochloride (95 mg, 0.167 mmol) was dissolved in CF3CO2H (1.0 mL) and the mixture stirred at room temperature for 1 h. The mixture was diluted with PhMe and the solvents were evaporated in vacuo. The residue was dissolved in EtOAc and stirred at room temperature for 1 h. The resulting precipitate was collected by filtration, washed with Et2O and dried to give N-[(4-chloro-1-guanidino-7-isoquinolinyl)sulphonyl]-N-(3-methoxybenzyl)glycine (65 mg, 0.128 mmol) as a white powder.

reactant | N-[(4-Chloro-1-guanidino-7-isoquinolinyl)sulphonyl]-N-(3-methoxybenzyl)glycine t-butyl ester hydrochloride | 0.167 mmol, 95 mg | Cl.C(C)(C)(C)OC(CN(CC1=CC(=CC=C1)OC)S(=O)(=O)C1=CC=C2C(=CN=C(C2=C1)NC(=N)N)Cl)=O
solvent | CF3CO2H | 1.0 mL | C(F)(F)(F)C(=O)O | C2HF3O2
solvent | PhMe | C1(=CC=CC=C1)C | C7H8
product | N-[(4-chloro-1-guanidino-7-isoquinolinyl)sulphonyl]-N-(3-methoxybenzyl)glycine | 0.128 mmol, 65 mg | ClC1=CN=C(C2=CC(=CC=C12)S(=O)(=O)N(CC(=O)O)CC1=CC(=CC=C1)OC)NC(=N)N | C20H20ClN5O5S
